* 5 V four-transistor NMOS cascode current mirror
VDD VDD 0 DC 5
IREFSRC VDD Iref DC 100uA
RLOAD VDD Iout 10k
M1 nref_mid nref_mid 0 0 NMOS W=50u L=1u
M2 Iref Iref nref_mid nref_mid NMOS W=50u L=1u
M3 nout_mid nref_mid 0 0 NMOS W=50u L=1u
M4 Iout Iref nout_mid nout_mid NMOS W=50u L=1u
.model NMOS NMOS (LEVEL=1 VTO=0.6 KP=100u)
.op
.end
